US08314238B2
Step 6: Synthesis of (S)-toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester (compound 6)
To the solution of mandelic acid amide in dichloromethane is added N-ethyldiisopropylamine (1.1 equivalents) at RT. Subsequently p-toluene sulfonic acid chloride (1.0 equivalent) is added keeping the temperature below 25° C. The reaction mixture is stirred at RT until a satisfactory conversion is reached and then washed with saturated sodium bicarbonate solution and water. After a solvent switch to ethyl acetate the solution is concentrated, cooled to −2° C. and the precipitate filtered. The crystals are washed with cooled ethyl acetate and dried in vacuo at 40° C.

reactant | mandelic acid amide | C(C(O)C1=CC=CC=C1)(=O)N | C8H9NO2
reactant | N-ethyldiisopropylamine | 1.1 equivalents | C(C)N(C(C)C)C(C)C | C8H19N
reactant | p-toluene sulfonic acid chloride | 1.0 equivalent | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester | CNC(=O)[C@H](C1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H17NO4S
